US06211270B1
Cyanoacetyldimethylurea is prepared in analogy to Example 1. Instead of dibenzylurea, dimethylurea is employed. The product is worked up by stripping off the acetic anhydride/acetic acid mixture on a rotary evaporator under reduced pressure. The residue obtained in this way is recrystallized from water.

reactant | dibenzylurea | C(C1=CC=CC=C1)NC(=O)NCC1=CC=CC=C1 | C15H16N2O
reactant | dimethylurea | C(=O)(NC)NC | C3H8N2O
reactant | acetic anhydride acetic acid | C(C)(=O)OC(C)=O.C(C)(=O)O
product | Cyanoacetyldimethylurea | Yield: 90% | C(#N)CC(=O)N(C(=O)NC)C | C6H9N3O2
